US05674906
Synthesis of (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile-Boc-glycineamide
Seven-hundred milligrams (1.86 mmols) of (E)-3-(3-amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile hydrochloride, 478 mg of WSCI, 375 mg of HOBt.H2O and 486 mg of Boc-Gly were dissolved in 100 ml of N,N-dimethylformamide, and 0.35 ml of triethylamine were added thereto. The mixture was reacted at 50° C. for 3.5 hours. Seven-hundred milliliters of water were added thereto, and the resulting mixture was extracted with ethyl acetate. Subsequently, the ethyl acetate layer was washed three times with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The product was purified using a silica-gel column (eluent, ether), and then dissolved in a small amount of dichloromethane. Diethyl ether was added thereto for crystallization to obtain 1.71 mmols of the final product in a yield of 92%.

reactant | (E)-3-(3-amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile hydrochloride | 1.86 mmols, Seven-hundred milligrams | Cl.NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC
reactant | HOBt | 375 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Boc-Gly | 486 mg | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | Seven-hundred milliliters | O | H2O
solvent | triethylamine | 0.35 ml | C(C)N(CC)CC | C6H15N
product | (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile Boc-glycineamide | 1.71 mmols, yield of 92% | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC.C(=O)(OC(C)(C)C)NCC(=O)N | InChI=1S/C19H20N2O4.C7H14N2O3/c1-22-16-6-5-12(8-15(16)21)7-14(11-20)13-9-17(23-2)19(25-4)18(10-13)24-3;1-7(2,3)12-6(11)9-4-5(8)10/h5-10H,21H2,1-4H3;4H2,1-3H3,(H2,8,10)(H,9,11)/b14-7-;
